US08039622B2
Step A: (3R,4R)-1-t-butyl-4-(4-chlorophenyl)pyrrolidine-3-carbonitrile
3-{t-Butyl[(2S)-2-(4-chlorophenyl)-2-hydroxyethyl]-amino}propanenitrile (5 g, 17.80 mmol) prepared according to the process described in WO 2004/09126 was dissolved in THF (27 mL). The reaction mixture was cooled to −20° C. or less, to which was added chlorodiethylphosphate (2.69 ml, 18.70 mmol). The reaction temperature was maintained at 12˜18° C., during which 1M LHMDS (37.4 ml, 37.38 mmol) was added dropwise over 2 hours. After the reaction was completed, water (45 mL) was added while the temperature was maintained at 15° C. or less. The resulting mixture was stirred for 30 minutes and extracted with EtOAc. Thus extracted organic solution was concentrated in vacuo and purified by column chromatography (eluent: EtOAc/Hex=1/3) to give the title compound (0.5 g, 10.69%).

reactant | 3-{t-Butyl[(2S)-2-(4-chlorophenyl)-2-hydroxyethyl]-amino}propanenitrile | 17.80 mmol, 5 g | C(C)(C)(C)N(CCC#N)C[C@@H](O)C1=CC=C(C=C1)Cl | C15H21ClN2O
reactant | chlorodiethylphosphate | 18.70 mmol, 2.69 ml | CCOP(=O)(OCC)Cl | C4H10ClO3P
reactant | LHMDS | 37.38 mmol, 1M, 37.4 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | water | 45 mL | O | H2O
solvent | THF | 27 mL | C1CCOC1 | C4H8O
product | (3R,4R)-1-t-butyl-4-(4-chlorophenyl)pyrrolidine-3-carbonitrile | 0.5 g, 10.69% | C(C)(C)(C)N1C[C@@H]([C@@H](C1)C1=CC=C(C=C1)Cl)C#N | C15H19ClN2
